US06313310B1
4-[2-(4-Morpholinyl)-ethoxy]-benzaldehyde was prepared from N-(2-hydroxyethyl)morpholine (Aldrich) and vanillin (Aldrich) by method H above.

reactant | N-(2-hydroxyethyl)morpholine | OCCN1CCOCC1 | C6H13NO2
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
product | 4-[2-(4-Morpholinyl)-ethoxy]-benzaldehyde | N1(CCOCC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
